US07642276B2
6-Bromo-3-bromomethyl-1,2-benzisoxazole
A mixture of 6-bromo-3-methyl-1,2-benzisoxazole (675 mg), N-bromosuccinimide (642 mg) and 1,1′-azobis(cyclohexanecarbonitrile) (90 mg) in carbon tetrachloride (7 ml) was irradiated using a 300W lamp at reflux under nitrogen for 40 h. On cooling the precipitate was removed by filtration, the solvent was evaporated and the residue was purified by flash chromatography on a silica column (4 cm diam) eluting with a cyclohexane-ethyl acetate gradient (49:1 to 24:1) to give the title compound as a pale yellow solid (350 mg).

reactant | 6-bromo-3-methyl-1,2-benzisoxazole | 675 mg | BrC1=CC2=C(C(=NO2)C)C=C1 | C8H6BrNO
reactant | N-bromosuccinimide | 642 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 1,1′-azobis(cyclohexanecarbonitrile) | 90 mg | N(=NC1(CCCCC1)C#N)C1(CCCCC1)C#N | C14H20N4
solvent | carbon tetrachloride | 7 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 6-Bromo-3-bromomethyl-1,2-benzisoxazole | 350 mg | BrC1=CC2=C(C(=NO2)CBr)C=C1 | C8H5Br2NO
